US07635711B2
Synthesis of 4-Bromo-2,6-dichloro-N-[2,2,2-trifluoro-1-(1H-indol-3-ylmethyl)ethyl]benzenesulfonamide
A mixture of 170 mg (0.75 mmol) of 2,2,2-trifluoro-1-(1H-indol-3-ylmethyl)ethylamine and 243 mg (0.75 mmol) of 4-bromo-2,6-dichlorobenzensulfonyl chloride in 4 mL of pyridine was warmed at 65° C. The reaction was monitored by TLC indicating a new less polar product compared to amine. After 16 hours, the mixture was cooled and concentrated to afford a thick oily residue. The residue was diluted with 1 N aqueous hydrochloric acid until acidic and extracted with ethyl acetate. The combined organic layers were washed with 1 N aqueous HCl, saturated aqueous sodium bicarbonate solution, and brine, dried over sodium sulfate, decanted, and concentrated in vacuo. The crude material was purified by preparative TLC using EtOAc-hexanes (15:85). Material from the preparative TLC was isolated by suspending the silica gel in ethyl acetate followed by filtration. The filtrate was concentrated in vacuo to afford 112 mg (30%) of the title compounds as an off-white crystalline solid.

reactant | 2,2,2-trifluoro-1-(1H-indol-3-ylmethyl)ethylamine | 0.75 mmol, 170 mg | FC(C(CC1=CNC2=CC=CC=C12)N)(F)F | C11H11F3N2
reactant | 4-bromo-2,6-dichlorobenzensulfonyl chloride | 0.75 mmol, 243 mg | BrC1=CC(=C(C(=C1)Cl)S(=O)(=O)Cl)Cl | C6H2BrCl3O2S
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
solvent | hydrochloric acid | 1 N | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Bromo-2,6-dichloro-N-[2,2,2-trifluoro-1-(1H-indol-3-ylmethyl)ethyl]benzenesulfonamide | 112 mg, 30% | BrC1=CC(=C(C(=C1)Cl)S(=O)(=O)NC(C(F)(F)F)CC1=CNC2=CC=CC=C12)Cl | C17H12BrCl2F3N2O2S
